US06432968B1
1-(5-hydroxy-5-methylhexyl)-3-methyl-7-butylxanthine (comp. no. 8)
The title compound was prepared by using 7-butyl-3-methylxanthine and 1-chloro-5-hydroxy-5-methylhexane as starting materials. C17H28N4O3 (molecular weight=336.4); the oily product was characterized and identified by NMR mass-spectroscopy.

reactant | 7-butyl-3-methylxanthine | C(CCC)N1C=NC=2N(C(NC(C12)=O)=O)C | C10H14N4O2
reactant | 1-chloro-5-hydroxy-5-methylhexane | ClCCCCC(C)(C)O | C7H15ClO
product | 1-(5-hydroxy-5-methylhexyl)-3-methyl-7-butylxanthine | OC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)CCCC)C)(C)C | C17H28N4O3
